US06472527B1
A 6-liter reactor is charged with 900 ml of ethanol, 302 g of zinc powder and 363 g of 4-mercapto-3-nitro-N-phenyl-benzamide. The mixture is heated to 65° C. and then 992 g of 34% concentrated hydrochloric acid are added within two hours while maintaining the reaction temperature below 70° C. The mixture is stirred at reflux for 2.5 hours and 50 g more of concentrated hydrochloric acid are added. A white suspension is formed. The reaction mixture is cooled to 70° C., filtered hot, and washed with 26 liters of water. The white product is dried at 80° C. under vacuum overnight. 264.6 g (72.6%) of 4-mercapto-3-nitro-N-phenyl-benzamide zinc salt are obtained.

reactant | zinc | 302 g | [Zn] | Zn
reactant | 4-mercapto-3-nitro-N-phenyl-benzamide | 363 g | SC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H10N2O3S
reactant | hydrochloric acid | 992 g | Cl | ClH
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 4-mercapto-3-nitro-N-phenyl-benzamide zinc salt | 264.6 g, 72.6% | [Zn].SC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | InChI=1S/C13H10N2O3S.Zn/c16-13(14-10-4-2-1-3-5-10)9-6-7-12(19)11(8-9)15(17)18;/h1-8,19H,(H,14,16);
